US04616014
m-Chloroperbenzoic acid (20 g) was added to a stirred solution of 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine (20 g) in chloroform (600 ml) under ice cooling, and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate, dried over sodium sulfate, and then concentrated. The resulting residue was crystallized with diethyl ether, and the crystals were collected by filtration, washed with diethyl ether and dried to give 5-methyl-3-methylsulfinyl-6-phenyl-1,2,4-triazine (19.0 g).

reactant | m-Chloroperbenzoic acid | 20 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine | 20 g | CC=1N=C(N=NC1C1=CC=CC=C1)SC | C11H11N3S
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-methyl-3-methylsulfinyl-6-phenyl-1,2,4-triazine | 19.0 g | CC=1N=C(N=NC1C1=CC=CC=C1)S(=O)C | C11H11N3OS
